US08012976B2
Ethyl 2-(4-(dimethylcarbamoyl)phenyl)-3-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate
(E)-N,N-Dimethyl-4-((1-oxo-1,3-dihydroisobenzofuran-4-ylimino)methyl)benzamide (924 mg, 3.0 mmol), 1-methyl-1H-imidazole-2-carbaldehyde (363 mg, 3.3 mmol), sodium (276 mg, 12 mmol) in ethanol (30 mL) and ethyl propionate (45 mL) were added and the mixture was stirred at room temperature overnight. Then the resulting mixture was evaporated under reduced pressure and extracted with ethyl acetate (100 mL×4) and concentrated. The crude product was purified by column chromatography (silica gel, petroleum ether/ethyl acetate=20:1 to 1:2) to afford the title compound as a yellow solid (500 mg, yield 37%). LC-MS (ESI) m/z: 447 (M+1)+.

reactant | (E)-N,N-Dimethyl-4-((1-oxo-1,3-dihydroisobenzofuran-4-ylimino)methyl)benzamide | 3.0 mmol, 924 mg | CN(C(C1=CC=C(C=C1)/C=N/C1=C2COC(C2=CC=C1)=O)=O)C | C18H16N2O3
reactant | 1-methyl-1H-imidazole-2-carbaldehyde | 3.3 mmol, 363 mg | CN1C(=NC=C1)C=O | C5H6N2O
reactant | sodium | 12 mmol, 276 mg | [Na] | Na
reactant | ethanol | 30 mL | C(C)O | C2H6O
solvent | ethyl propionate | 45 mL | C(CC)(=O)OCC | C5H10O2
product | Ethyl 2-(4-(dimethylcarbamoyl)phenyl)-3-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 500 mg, yield 37% | CN(C(=O)C1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C=1N(C=CN1)C)=O)C(=O)OCC)C | C25H26N4O4
